US07348456B2
Step A: 1-(3-bromophenyl)acetone
To a solution of N-methoxy-N-methylacetamide (10 g, 0.10 mol) in 200 mL of ether at 0° C. was added 3-bromobenzylmagnesium bromide (0.25 M, 200 mL, 50 mmol). After stirring at 0° C. for 2 h, the reaction mixture was partitioned between hexane and saturated aqueous ammonium chloride. The organic layer was separated, washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated to dryness to give the title compound, which was used without further purification. 1H NMR (500 MHz, CD3OD): δ 7.5-7.1 (m, 4H), 3.78 (s, 2H), 2.19 (s, 3H).

reactant | N-methoxy-N-methylacetamide | 0.10 mol, 10 g | CON(C(C)=O)C | C4H9NO2
reactant | 3-bromobenzylmagnesium bromide | 50 mmol, 0.25 M, 200 mL | BrC=1C=C(C[Mg]Br)C=CC1
solvent | ether | 200 mL | CCOCC | C4H10O
product | 1-(3-bromophenyl)acetone | BrC=1C=C(C=CC1)CC(=O)C | C9H9BrO
